US04459422
Preparation of (E)-6-[2-(2,4-Dichloro-6-(phenylmethoxy)phenyl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one
Sodium tetrahydridoborate (1.55 g, 41.1 mmole) was added with stirring to a cooled solution (5° C.) of methyl (E)-7-(2,4-dichloro-6-phenylmethoxyphenyl)-5-hydroxy-3-oxo-6-heptenoate (34.8 g, 82.3 mmole) in ethanol (200 ml) at a rate sufficient to maintain the internal temperature at 15°-20° C. The resulting solution was stirred with ice-bath cooling for 15 min. and then acidified with 6N hydrochloric acid. The resulting mixture was diluted with water (500 ml) and extracted with ether (3×250 ml). The organic extracts were combined, washed with brine (4×100 ml), dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo, leaving the title compound as a yellow oil (34.8 g, 99.5%): pmr CDCl3) δ2.45 (2H, d), 3.65 (3H, s), 4.18 (H, m), 4.45 (H, m), 4.98 (2H, s), 7.28 (5H, s).

reactant | Sodium tetrahydridoborate | 41.1 mmole, 1.55 g | [BH4-].[Na+]
reactant | methyl (E)-7-(2,4-dichloro-6-phenylmethoxyphenyl)-5-hydroxy-3-oxo-6-heptenoate | 82.3 mmole, 34.8 g | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=CC=C1)/C=C/C(CC(CC(=O)OC)=O)O | C21H20Cl2O5
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | (E)-6-[2-(2,4-Dichloro-6-(phenylmethoxy)phenyl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | 34.8 g, 99.5% | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=CC=C1)/C=C/C1CC(CC(O1)=O)O | C20H18Cl2O4
